US05587486
3-methylfuran-2-carboxaldehyde imine (1.5 g, 8.15 mmol), methyl acrylate (3.5 g, 40.7 mmol) and diisopropyl ethyl amine (2.1 g, 16.3 mmol) were mixed in toluene (6 ml) and stirred at 80° C. Ethyl chloroformate (1.77 g, 16.3 mmol) was added to the mixture. After completing the addition, the reaction mixture was heated for one hour under reflux and allowed to cool to room temperature. Water was added and the mixture was extracted with toluene. The organic layer was washed with an aqueous solution of sodium chloride and dried over sodium sulfate. The solvent was distilled off to obtain crude products of N-ethoxycarbonyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]furan-6-carboxylic acid methyl ester. Silica gel column chromatography using a developing solvent of hexane/ethyl acetate=5/1, gave a fraction containing the desired product, which was concentrated by distilling off the solvent, to obtain 1.2 g (yield: 43.0% from imine) of N-ethoxycarbonyl-N-phenyl-7-amino-4,5,6,7tetrahydrobenzo[b]furan-6-carboxylic acid methyl ester. 1H-NMR spectra (chemical shift, ppm: in CDCl3): 1.00-1.40 (3H, m), 1.65-2.10 (2H, m), 2.15-3.05 (joined 2H, m), 3.74 (3H, s), 3.95-4.30 (3H, m), 5.75-6.20 (joined 1H, m), 6.50-6.95 (2H, m), 7.00-7.50 (5H, m).

reactant | 3-methylfuran-2-carboxaldehyde imine | 8.15 mmol, 1.5 g | CC1=C(OC=C1)C=N | C6H7NO
reactant | methyl acrylate | 40.7 mmol, 3.5 g | C(C=C)(=O)OC | C4H6O2
reactant | diisopropyl ethyl amine | 16.3 mmol, 2.1 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ethyl chloroformate | 16.3 mmol, 1.77 g | ClC(=O)OCC | C3H5ClO2
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | N-ethoxycarbonyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]furan-6-carboxylic acid methyl ester | COC(=O)C1CCC2=C(OC=C2)C1N(C1=CC=CC=C1)C(=O)OCC | C19H21NO5
